US08003785B2
A mixture of 0.50 g (0.0014 mole) of 2-chloro-7,7-difluoro-5-methyl-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-281) and 0.27 g (0.0017 mole) of 4-amino-3-methoxy-benzoic acid in 3.2 mL of ethanol-water-hydrochloric acid (20:80:1) was refluxed for 18 hours, then cooled and partially concentrated under reduced pressure. The resulting solid was collected by filtration, washed with water and dried to give 0.53 g of 4-[7,7-difluoro-5-methyl-6-oxo-9-(3-phenyl-propyl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-3-methoxy-benzoic acid (I-281).

reactant | 2-chloro-7,7-difluoro-5-methyl-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0014 mole, 0.50 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)CCCC2=CC=CC=C2)N1 | C17H17ClF2N4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.0017 mole, 0.27 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
solvent | ethanol water hydrochloric acid | 3.2 mL | C(C)O.O.Cl
product | 4-[7,7-difluoro-5-methyl-6-oxo-9-(3-phenyl-propyl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-3-methoxy-benzoic acid | 0.53 g | FC1(C(N(C2=C(N(C1)CCCC1=CC=CC=C1)N=C(N=C2)NC2=C(C=C(C(=O)O)C=C2)OC)C)=O)F | C25H25F2N5O4
